data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.9600.json
{"doi": "10.1002_adsc.9600", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical multi-component hydroxy-thiocarbamation of electron-deficient alkenes with KSCN and H2O to give β-hydroxy primary S-thiocarbamates", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of SCN- to thiocyanyl radical (SCN•); the benzylic radical adduct is further oxidized at the anode to a carbocation; protons are reduced at the cathode to H2", "key_intermediates": [{"name": "Thiocyanyl radical (SCN•), intermediate I", "smiles": "[S]C#N", "role": "reactive"}, {"name": "Benzylic carbon radical from SCN• addition to α-phenylacrylate, intermediate II", "smiles": "[CH](c1ccccc1)(C(=O)OC)CSC#N", "role": "reactive"}, {"name": "Benzylic carbocation, intermediate III", "smiles": "[C+](c1ccccc1)(C(=O)OC)CSC#N", "role": "reactive"}, {"name": "β-Hydroxy thiocyanate, intermediate IV", "smiles": "OC(c1ccccc1)(C(=O)OC)CSC#N", "role": "transient"}, {"name": "HFIP H-bond-activated thiocyanate adduct, intermediate V", "smiles": null, "role": "transient"}, {"name": "β-Hydroxy primary S-thiocarbamate product 4a", "smiles": "OC(c1ccccc1)(C(=O)OC)CSC(=O)N", "role": "reactive"}], "electron_flow": "SCN- is oxidized at the anode to SCN•, which adds to the electron-deficient alkene to give a benzylic C-radical; a second anodic SET produces a benzylic cation that is trapped by H2O to give a β-hydroxy thiocyanate; HFIP-assisted hydration of the SCN group then yields the primary S-thiocarbamate while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Target product 4a suppressed to trace; HRMS detected BHT-SCN adduct and BHT-carbon radical adduct, confirming SCN• (I) and benzylic radical (II)"}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "D-labeled 4a detected by HRMS; N-H/O-H of carbamoyl and hydroxyl originate from water"}, {"name": "H2 18O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "18O-labeled 4a detected by HRMS; both hydroxyl and carbamoyl oxygens come from H2O"}, {"name": "Cyclic voltammetry of 1a and KSCN", "smiles": null, "purpose": "redox_probe", "observation": "KSCN onset oxidation +0.383 V vs SCE, much lower than α-phenylacrylate (+1.693 V), indicating SCN- is preferentially oxidized at the anode"}, {"name": "Pd/C hydrogenation of N-phenylmaleimide using cell-evolved H2", "smiles": null, "purpose": "other", "observation": "N-phenylsuccinimide 6a obtained in 59% yield, confirming cathodic H2 evolution"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_BHT", "cyclic_voltammetry", "product_isotope_distribution", "other"], "evidence_strength": "strong", "notes": "HFIP (solvent) is proposed to activate the SCN group via H-bonding (intermediate V), enabling nucleophilic hydration of the nitrile-like SCN to deliver the primary S-thiocarbamate; no DFT or KIE reported."}
